US09108939B2
1-(4-((1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-ylidene)methyl)phenyl)-3-(2-hydroxy-2-methylpropyl)urea
4-Nitrophenyl carbonochloridate (0.225 mmol, 45.4 mg) was added to a stirred solution of 2-(4-((4-(4-aminobenzylidene)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (0.225 mmol, 100 mg) in dioxane (1 mL) and the mixture stirred at room temperature for 1 hour. 1-Amino-2-methylpropan-2-ol (0.675 mmol, 60.2 mg) was added and the mixture stirred at room temperature for 1.5 hours. The mixture was washed with water (1 mL), the organic phase dried over magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by HPLC and treated with strong cation exchange column to afford the title compound (17 mg). MS (ESI) m/z 560.2 [M+H]+

reactant | 4-Nitrophenyl carbonochloridate | 0.225 mmol, 45.4 mg | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
reactant | 2-(4-((4-(4-aminobenzylidene)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 0.225 mmol, 100 mg | NC1=CC=C(C=C2CCN(CC2)CC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)O)C=C1 | C22H22F6N2O
reactant | 1-Amino-2-methylpropan-2-ol | 0.675 mmol, 60.2 mg | NCC(C)(O)C | C4H11NO
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 1-(4-((1-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-ylidene)methyl)phenyl)-3-(2-hydroxy-2-methylpropyl)urea | 17 mg | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCC(CC2)=CC2=CC=C(C=C2)NC(=O)NCC(C)(C)O)C=C1)(F)F | C27H31F6N3O3
